US06380238B1
4-Fluoro-3-iodo-6-methylnitrobenzene
A solution of sodium nitrite (3.6 g) in water (20 mL) was added dropwise over 10 min to a stirred suspension of 2-fluoro-4-methyl-5-nitroaniline (8.5 g, 50 mmol) in concentrated hydrochloric acid (100 mL) at 0° C. After a further 20 min at 0° C. the mixture-was added over 5 min to a solution of potassium iodide (9.1 g, 55 mmol) in water (30 mL) keeping the internal temperature below 20° C. After complete addition, the mixture was warmed to room temperature and stirred for 2 h then poured into water (500 mL) and extracted with ether (3×200 mL). The combined organic extracts were washed with saturated aqueous sodium thiosulfate solution (500 mL), dried (magnesium sulfate), filtered and concentrated in vacuo to leave the product as an orange oil. (400 MHz; CDCl3) δH 8.41 (1H, d, J 6 Hz), 7.02 (1H, d, J 8 Hz), 2.59 (3H, s); GC (25 m Quartz/Bonded Phase I; Injection Temperature 250° C.; Detector Temperature 320° C.; Temperature Ramp Rate: 100 to 320° C. at 10° C./min; Carrier Gas Helium; Flow Rate 12 mL/min) Retention Time: 5.92 min.

reactant | sodium nitrite | 3.6 g | N(=O)[O-].[Na+]
reactant | 2-fluoro-4-methyl-5-nitroaniline | 50 mmol, 8.5 g | FC1=C(N)C=C(C(=C1)C)[N+](=O)[O-] | C7H7FN2O2
reactant | potassium iodide | 55 mmol, 9.1 g | [I-].[K+]
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 100 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 4-Fluoro-3-iodo-6-methylnitrobenzene | FC1=C(C=C(C(=C1)C)[N+](=O)[O-])I | C7H5FINO2
